US06380387B1
A mixture of 1,3-dimethyl-6-(trifluoromethyl)uracil (16.91 mmol, 3.52 g), trifluoroacetic acid (20 mL) and trifluoroacetic anhydride (5 mL) was refluxed for 5 min. Then, NIS (16.91 mmol, 3.8 g) was added and the resulting mixture was stirred for 15 h at which time the TLC analysis of the reaction mixture indicated the presence of some starting material. Another portion of NIS (8.45 mmol, 1.9 g) was added and reflux was continued for another 5 h. The reaction mixture was cooled to room temperature and was poured slowly into a saturated potassium carbonate solution (100 mL). Then, sodium thiosulfite solution was added to remove the excess iodine color. The resulting solids were collected by filtration and washed with water. After air drying, 3.73 g (66% yield) of 1,3-dimethyl-5-iodo-6-(trifluoromethyl)uracil was obtained as a white solid: mp 149-151° C. EI-HRMS m/e calcd for C7H6F3IN2O2 (M+) 333.9426, found 333.9436.

reactant | 1,3-dimethyl-6-(trifluoromethyl)uracil | 16.91 mmol, 3.52 g | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C | C7H7F3N2O2
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NIS | 16.91 mmol, 3.8 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | NIS | 8.45 mmol, 1.9 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | sodium thiosulfite | S(=S)([O-])[O-].[Na+].[Na+]
solvent | potassium carbonate | 100 mL | C([O-])([O-])=O.[K+].[K+]
product | 1,3-dimethyl-5-iodo-6-(trifluoromethyl)uracil | 3.73 g, 66% yield | CN1C(=O)N(C(=O)C(=C1C(F)(F)F)I)C | C7H6F3IN2O2
